US07855193B2
4-(benzofuran-5-yl)-tetrahydro-2H-pyran-4-ol (Step 1 in Scheme 6)
To a suspension of Mg (550 mg, 23.0 mmol) in dry THF (I5mL), under nitrogen atmosphere was added 5-bromobenzofuran (3.9 g, 20.0 mmol) in one portion. A crystal of iodine was added and then the contents were refluxed for 3h. The reaction was then allowed to attain ambient temperature, and then cooled to −40° C. Pyran-4-one (3.0 g, 30.0 mmol) was added drop-wise and the resulting solution was allowed to reach room temperature. The reaction mixture was quenched by addition of 1N HCl (5 mL) and then was diluted with ether (30 mL). It was washed with water (2×15 mL) and the combined organic extract was washed with brine (15 mL), dried and concentrated under reduced pressure to give the crude carbinol as colorless oil. Purification by column chromatography using 5% EtOAc-hexanes afforded the desired product as white solid (41%). 1H NMR (400 MHz, CDCl3) δ 7.74 (d, 1H), 7.64 (d, 1H), 7.51-7.44 (m, 2H), 6.78 (d, 1H), 4.00-3.88 (m, 4H), 2.25 (t, 2H), 1.78-1.74 (m, 2H).

reactant | 5-bromobenzofuran | 20.0 mmol, 3.9 g | BrC=1C=CC2=C(C=CO2)C1 | C8H5BrO
reactant | iodine | II | I2
reactant | Pyran-4-one | 30.0 mmol, 3.0 g | O1C=CC(C=C1)=O | C5H4O2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(benzofuran-5-yl)-tetrahydro-2H-pyran-4-ol | 41% | O1C=CC2=C1C=CC(=C2)C2(CCOCC2)O | C13H14O3
